### PR TITLE
feat: pushforward of uniform spaces

### PR DESCRIPTION
**Pull request by plp127**
We define the pushforward of uniforms spaces and show it is left adjoint to the pullback.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 1]
```diff
@@ -326,6 +325,92 @@ instance : PartialOrder (UniformSpace α) :=
...
+  { uniformity.sets := { U | ∃ seq : ℕ → Set (α × α), seq 0 = U ∧
+      ∀ n, seq n ∈ f ⊔ map Prod.swap f ⊔ 𝓟 SetRel.id ∧ seq (n + 1) ○ seq (n + 1) ⊆ seq n }
+    uniformity.univ_sets := ⟨fun _ => univ, by simp⟩
+    uniformity.sets_of_superset := by
+      intro x y hx hxy
+      obtain ⟨seq, rfl, hseq⟩ := hx
+      refine ⟨fun n => Nat.casesOn n y (fun n => seq (n + 1)), rfl,
+        fun n => Nat.casesOn n ⟨?_, ?_⟩ (fun n => hseq (n + 1))⟩
+      · exact mem_of_superset (hseq 0).1 hxy
+      · exact (hseq 0).2.trans hxy
```
Comment (peakpoint) [inline Mathlib/Topology/UniformSpace/Basic.lean]: why not use `rintro` and inline things a bit more (here and in the other proofs)?
```suggestion
      rintro x y ⟨seq, rfl, hseq⟩ hxy
      exact ⟨fun n ↦ n.casesOn y fun i ↦ seq (i + 1), rfl,
        fun n ↦ n.casesOn ⟨mem_of_superset (hseq 0).1 hxy, (hseq 0).2.trans hxy⟩
          fun i ↦ hseq (i + 1)⟩
```

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 2]
```diff
@@ -326,6 +325,92 @@ instance : PartialOrder (UniformSpace α) :=
...
+      intro U hU
+      obtain ⟨seq, rfl, hseq⟩ := hU
+      exact (hseq 0).1.2
+    symm := by
+      intro U hU
+      obtain ⟨seq, rfl, hseq⟩ := hU
+      refine ⟨fun n => Prod.swap ⁻¹' seq n, rfl, fun n => ⟨?_, ?_⟩⟩
+      · rw [← mem_map, map_sup, map_principal, ← Equiv.coe_prodComm, Equiv.image_eq_preimage_symm,
+          Equiv.prodComm_symm, Equiv.coe_prodComm, ← SetRel.inv, SetRel.inv_id,
+          sup_comm f, map_sup, map_map, Prod.swap_swap_eq, map_id]
```
Comment (peakpoint) [inline Mathlib/Topology/UniformSpace/Basic.lean]: you can replace the `Equiv` stuff with `image_swap_eq_preimage_swap`
```suggestion
      · rw [← mem_map, map_sup, map_principal, image_swap_eq_preimage_swap, ← SetRel.inv,
          SetRel.inv_id, sup_comm f, map_sup, map_map, Prod.swap_swap_eq, map_id]
```

**Review by peakpoint — COMMENTED** [review]
if you'd like to add a reference for `UniformSpace.generateFilter`, i think it's basically `I.10` in Isbell's *Uniform Spaces* (though the book uses uniform covers). but it's up to you

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 3]
```diff
@@ -472,6 +550,55 @@ theorem uniformContinuous_comap' {f : γ → β} {g : α → γ} [v : UniformSpa
     (h : UniformContinuous (f ∘ g)) : @UniformContinuous α γ u (UniformSpace.comap f v) g :=
   tendsto_comap_iff.2 h
 
+set_option warn.classDefReducibility false in
+/-- Given `f : α → β` and a uniformity `u` on `α`, the image of `u` under `f`
+is the finest uniformity on `β` making the map `f` uniformly continuous.
+It does not always agree with the coinduced topology. -/
+def UniformSpace.map (f : α → β) (u : UniformSpace α) : UniformSpace β :=
```
Comment (j-loreaux) [inline Mathlib/Topology/UniformSpace/Basic.lean:558]: I think this should come with much bigger warnings. `UniformSpace.map` is *very rarely* the thing you want. It gives you the adjunction, but not much else in general. There's a reason we haven't had it in Mathlib all this time.

Comment (plp127) [reply Mathlib/Topology/UniformSpace/Basic.lean:558]: I agree that you don't usually want to put it as an instance on a type, but it certainly can be very useful for proving theorems, exactly because it gives you this adjunction. What sort of additional warnings would you suggest?

Comment (j-loreaux) [reply Mathlib/Topology/UniformSpace/Basic.lean:558]: Mainly what you said: you almost never want to make it into an instance on a type. Otherwise it's a major footgun for people unfamiliar with uniform spaces. They see it and say "oh look, great, the pushforward of a uniform structure. That's probably what I want since I have this function" (then proceeds to pain).

Comment (plp127) [reply Mathlib/Topology/UniformSpace/Basic.lean:558]: I've added a bigger warning. Though, now I'm wondering why we need such big warnings on `UniformSpace.map`, but `TopologicalSpace.coinduced` doesn't get any at all (in fact it's even a global instance on `Quotient`!)
